US04939262
EXAMPLE 9 (Process 10 (Step a)) 3-Amino-6-chloroacetyl-2,4-dichloropyridine
14 g (68.3 mmol) of 6-acetyl-3-amino-2,4-dichloropyridine are dissolved in 70 ml of dry CHCl3 and then a solution of 5.5 ml (68.4 mmol) of SO2Cl2 in 70 ml of dry CHCl3 is added dropwise and the mixture is stirred for two hours at 40° C. For working up, it is poured into 250 ml of NaHCO3 solution, and the organic phase is separated off and extracted once more using 100 ml of CHCl3. The combined organic phases are dried using Na2SO4 and evaporated.

reactant | 6-acetyl-3-amino-2,4-dichloropyridine | 68.3 mmol, 14 g | C(C)(=O)C1=CC(=C(C(=N1)Cl)N)Cl | C7H6Cl2N2O
reactant | NaHCO3 | 250 ml | C(=O)(O)[O-].[Na+]
reactant | CHCl3 | 70 ml | C(Cl)(Cl)Cl | CHCl3
reactant | CHCl3 | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Amino-6-chloroacetyl-2,4-dichloropyridine | NC=1C(=NC(=CC1Cl)C(CCl)=O)Cl | C7H5Cl3N2O
